US06930187B2
To a stirred suspension of epothilone F (5.0 g, 9.55 mmol, 86.2% potency) in tetrahydrofuran (50 ml) was added diphenylphosphoryl azide (2.28 ml, 2.89 g, 10.5 mmol, 1.1 equivalents) at room temperature. 1,8-Diazabicyclo[5.4.0]undec-7-ene (1.73 ml, 1.74 g, 11.46 mmol, 1.2 equivalents) was then added over 10 min. The mixture was stirred for 10 min. and then allowed to warm to 35° C. and stirred for 6.5 hours. The mixture was cooled to 20° C., and a mixture of aqueous solution of CF3COONH4 (4M, 10 ml) and NH4OH (4M, 10 ml) was added. After the mixture was stirred for 5 min, trimethylphosphine (1M in tetrahydrofuran, 10.03 ml, 10.03 mmol, 1.05 equivalents) was added over 10 min at 20° C. The mixture was allowed to stir at 35° C. for 2 hours and then at 5° C. for 14 hours. EtOAc (200 ml) and aqueous NH4OH (1 M, 10 ml) were added. The organic layer was washed with aqueous NH4OH (1 M, 30 ml). The combined aqueous layers were extracted with EtOAc (2×30 ml). The combined organic layers were washed with a mixture of brine (20 ml) and H2O (20 ml). The solvents were removed to yield ˜60 ml on a rotary evaporator, and EtOAc (60 ml) was added. The solvent was removed again to ˜65 ml, and the resulting slurry was crystallized from EtOAc/heptane to give 21-amino epothilone B (3.75 g, 87% yield corrected for input potency) as a white solid.

reactant | epothilone F | 9.55 mmol, 5.0 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CO)/C)C | C27H41NO7S
reactant | diphenylphosphoryl azide | 10.5 mmol, 2.28 ml, 2.89 g, 1.1 equivalents | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 11.46 mmol, 1.73 ml, 1.74 g, 1.2 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
reactant | CF3COONH4 | 4M, 10 ml | C(F)(F)(F)C(=O)[O-].[NH4+]
reactant | NH4OH | 4M, 10 ml | [NH4+].[OH-]
reactant | trimethylphosphine | 10.03 mmol, 1M, 10.03 ml, 1.05 equivalents | CP(C)C | C3H9P
reactant | NH4OH | 1 M, 10 ml | [NH4+].[OH-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 21-amino epothilone B | 3.75 g, 87% yield | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CN)/C)C | C27H42N2O6S
